US07855209B2
A. A mixture of (Z) and (E) 2-(4-chlorobenzoyl)-3-methylhex-2-enenitrile
A mixture of pentan-2-one (20 mmol), 3-(4-chlorophenyl)-3-oxopropanenitrile (3.6 g, 20 mmol), β-alanine (180 mg, 2 mmol), acetic acid (2.6 mL) and toluene (60 mL) is heated to reflux in a Dean-Stark system for 18 h. The solution is cooled to RT, then diluted with EtOAc (50 mL), washed with 5% NaHCO3 (3×20 mL), water (20 mL), brine (20 mL), dried (Na2SO4) and finally concentrated in vacuo. A mixture of the two isomers is obtained as a colorless oil by chromatographic purification of the crude residue on silica gel using EtOAc:petroleum ether (0.5:9.5) as eluent.

reactant | pentan-2-one | 20 mmol | CC(CCC)=O | C5H10O
reactant | 3-(4-chlorophenyl)-3-oxopropanenitrile | 20 mmol, 3.6 g | ClC1=CC=C(C=C1)C(CC#N)=O | C9H6ClNO
reactant | β-alanine | 2 mmol, 180 mg | NCCC(=O)O | C3H7NO2
reactant | acetic acid | 2.6 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chlorobenzoyl)-3-methylhex-2-enenitrile | ClC1=CC=C(C(=O)C(C#N)=C(CCC)C)C=C1 | C14H14ClNO
